US05364955
N-(3-Trimethoxysilylpropyl)-aspartic acid dimethyl ester
179.0 g (1.0 mol) of 3-aminopropyl-trimethoxysilane and 144.0 g (1.0 mol) of maleic acid dimethyl ester were reacted by the same procedure used in Example 2. The viscosity of the clear, pale yellow liquid was about 30 mPa.s (23° C.). Base titration showed an amine equivalent weight of about 331 g (theory: 323 g).

reactant | 3-aminopropyl-trimethoxysilane | 1.0 mol, 179.0 g | NCCC[Si](OC)(OC)OC | C6H17NO3Si
reactant | maleic acid dimethyl ester | 1.0 mol, 144.0 g | COC(\C=C/C(=O)OC)=O | C6H8O4
product | N-(3-Trimethoxysilylpropyl)-aspartic acid dimethyl ester | COC([C@@H](NCCC[Si](OC)(OC)OC)CC(=O)OC)=O | C12H25NO7Si
